US04328367
Production of N-(2-ethylsulfinylethyl)-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide
In chloroform (30 ml) was dissolved N-(2-ethylthioethyl)-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide (1.9 g), and with stirring at a constant temperature of 3°-8° C. m-Chloroperbenzoic acid (1.0 g) was added in small portions over an hour. The mixture was stirred at the same temperature for 3 hours and, then, allowed to stand at room temperature overnight. The solution was washed twice with a 10% aqueous solution of sodium nitrite (20 ml each), washed with water and dried over anhydrous sodium sulfate. The chloroform layer was concentrated to dryness under reduced pressure and the residue was recrystallized from ethyl acetate. Yield 1.8 g; m.p. 136°-137° C.

reactant | N-(2-ethylthioethyl)-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide | 1.9 g | C(C)SCCNC(C1=C(C(=O)NC2=C(C=C(C=C2)Cl)F)CCCC1)=O | C18H22ClFN2O2S
reactant | m-Chloroperbenzoic acid | 1.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-ethylsulfinylethyl)-N'-(2-fluoro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalamide | C(C)S(=O)CCNC(C1=C(C(=O)NC2=C(C=C(C=C2)Cl)F)CCCC1)=O | C18H22ClFN2O3S
